US04344945
4-(2-Oxo-3,4-dihydro-2H-1,3-benzoxazin-3-yl)-piperidine hydrochloride
In this reference example, 16.0 g of 1-benzyl-4-(2-oxo-3,4-dihydro-2H-1,3-benzoxazin-3-yl)-piperidine and 4.0 g of 10% palladium carbon are added to a mixture of 150 ml of water, 50 ml of 1 N hydrochloric acid and 300 ml of methanol. While the resultant mixture is stirred, hydrogen gas is passed therethrough overnight. Then, the reaction mixture is filtered and the filtrate is concentrated. The white crystals as a residue are mixed with methanol and separated by filtration to obtain 11.4 g of the desired product.

reactant | 1-benzyl-4-(2-oxo-3,4-dihydro-2H-1,3-benzoxazin-3-yl)-piperidine | 16.0 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(OC2=C(C1)C=CC=C2)=O | C20H22N2O2
reactant | water | 150 ml | O | H2O
reactant | hydrochloric acid | 1 N, 50 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 4.0 g | [C].[Pd]
solvent | methanol | 300 ml | CO | CH4O
product | 4-(2-Oxo-3,4-dihydro-2H-1,3-benzoxazin-3-yl)-piperidine hydrochloride | 11.4 g | Cl.O=C1OC2=C(CN1C1CCNCC1)C=CC=C2 | InChI=1S/C13H16N2O2.ClH/c16-13-15(11-5-7-14-8-6-11)9-10-3-1-2-4-12(10)17-13;/h1-4,11,14H,5-9H2;1H
